US08071592B2
7-Fluoro-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one 5-oxide (340 mg, 1.544 mmol) was stirred in 1,4-dioxane (16 mL) and water (8 mL) was added, followed by sodium periodate (990 mg, 2.3 eq.) and osmium tetroxide (1 mL of 4% aqueous solution). The mixture was stirred at room temperature for 3 hours. The solvents were evaporated under reduced pressure (water bath temperature 30° C.) to a volume of ca. 10 mL, and the residue was extracted with 20% methanol in DCM (v:v, 3×50 mL). The combined organic extracts were dried over anhydrous sodium sulphate, filtered and evaporated under reduced pressure to give (7-fluoro-5-oxido-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde largely as its methyl hemiacetal) as a tan foam (327 mg). LCMS showed major peaks for the aldehyde hydrate (32%) and the methyl hemiacetal (64%).

reactant | 7-Fluoro-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one 5-oxide | 1.544 mmol, 340 mg | FC=1C=[N+](C=2C=CC(N(C2C1)CC=C)=O)[O-] | C11H9FN2O2
reactant | water | 8 mL | O | H2O
reactant | sodium periodate | 990 mg, 2.3 eq. | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 16 mL | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | 1 mL | [Os](=O)(=O)(=O)=O
product | (7-fluoro-5-oxido-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | FC1=C[N+](=C2C=CC(N(C2=C1)CC=O)=O)[O-] | C10H7FN2O3
